US04323691
4-(2-Hydroxybenzoyl)-2,3-dichlorophenetole was prepared by reaction of 2-methoxybenzoyl chloride and 2,3-dichlorophenetole; m.p. of crude product 112°-120° C.

reactant | 2-methoxybenzoyl chloride | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
reactant | 2,3-dichlorophenetole | ClC1=C(C=CC=C1Cl)OCC | C8H8Cl2O
product | 4-(2-Hydroxybenzoyl)-2,3-dichlorophenetole | OC1=C(C(=O)C2=C(C(=C(C=C2)OCC)Cl)Cl)C=CC=C1 | C15H12Cl2O3
